US04040812
Preparation of Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3--methyl-6-(3-nitrophenoxycarbonyloxy)-2(1H)-pyrimidinone
Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H) -pyrimidinone (0.05 mole) dissolved in pyridine (80 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The solution is cooled to a temperature of about 10° C and 3-nitrophenyl chloroformate (0.06 mole) dissolved in pyridine (25 ml) is slowly added with stirring over a period of about 15 minutes. After the addition is completed, the reaction mixture is warmed to room temperature and is stirred for an additional period of about 20 minutes to ensure completion of the reaction. After this time the reaction mixture is filtered. The filtrate is then combined with water (100 ml) resulting in the formation of a precipitate. This precipitate is recovered by filtration and is dissolved in ether. The ether solution is washed with dilute aqueous sodium carbonate, is dried over anhydrous magnesium sulfate and is filtered. The filtrate is then stripped of ether to yield the desired product tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6 -(3-nitrophenoxycarbonyloxy)-2(1H)-pyrimidinone as the residue.

reactant | Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H) -pyrimidinone | 0.05 mole | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C11H18N4O2S
reactant | 3-nitrophenyl chloroformate | 0.06 mole | ClC(=O)OC1=CC(=CC=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6 -(3-nitrophenoxycarbonyloxy)-2(1H)-pyrimidinone | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1OC(=O)OC1=CC(=CC=C1)[N+](=O)[O-])C)=O | C18H21N5O6S
